US08440666B2
2-[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]oxy}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide
To 2-(4,5-dibromo-6-oxopyridazin-1(6H)-yl)-N-(pyridin-4-ylmethyl)acetamide (50 mg, 0.124 mmol) and (1R,2R,3R,5S)-(−)-isopinocampheol (50 mg, 0.324 mmol) in 1,4-dioxane (2 mL), sodium hydride (15 mg, 0.313 mmol) was added at 0° C., and stirred at 100° C. for 5 days. After completion of the reaction, the reaction mixture was mixed with water and extracted with chloroform and ethyl acetate. The combined organic layer was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate) to give the desired product (1.7 mg, 3% yield).

reactant | 2-(4,5-dibromo-6-oxopyridazin-1(6H)-yl)-N-(pyridin-4-ylmethyl)acetamide | 0.124 mmol, 50 mg | BrC=1C=NN(C(C1Br)=O)CC(=O)NCC1=CC=NC=C1 | C12H10Br2N4O2
reactant | (1R,2R,3R,5S)-(−)-isopinocampheol | 0.324 mmol, 50 mg | CC1C2CC(C2(C)C)CC1O | C10H18O
reactant | sodium hydride | 0.313 mmol, 15 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]oxy}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide | 1.7 mg, 3% yield | BrC1=C(C=NN(C1=O)CC(=O)NCC1=CC=NC=C1)O[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H27BrN4O3
